US03962227
For example, p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate is reacted with phenylacetyl chloride in cold aqueous acetone containing sodium bicarbonate to provide p-nitrobenzyl 7-phenylacetamido-3-chloro-3-cephem-4-carboxylate.

reactant | p-nitrobenzyl 7-amino-3-chloro-3-cephem-4-carboxylate | NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C14H12ClN3O5S
reactant | phenylacetyl chloride | C1(=CC=CC=C1)CC(=O)Cl | C8H7ClO
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | acetone | CC(=O)C | C3H6O
product | p-nitrobenzyl 7-phenylacetamido-3-chloro-3-cephem-4-carboxylate | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)Cl)C(=O)OCC2=CC=C(C=C2)[N+](=O)[O-])C1=O | C22H18ClN3O6S
